US04306984
(B) Zinc Diisopropyl Dithiophosphate
To a two liter three-necked flask equipped with a stirrer, nitrogen inlet, and a Dean-Stark trap/condenser was added under nitrogen, 526.5 g (2.25 eq.) of diisopropyl dithiophosphoric acid and about 600 ml toluene. To this solution was added 146.5 g zinc oxide (60% eq. excess) at which point the temperature rose to about 74° C. The reaction mixture was heated to reflux and maintained at reflux for about four hours. A total of about 20 ml of water was collected, after which the reaction mixture was further diluted with 200 ml toluene and filtered hot, two times through Celite. The clear filtrate was stripped in a Rotary-Evaporator under full pump vacuum and a water-bath temperature up to 72° C. The product obtained weighed 592.3 g and was a soft, white, crystalline solid--% zinc=14.00, % phosphorus=13.83.

reactant | diisopropyl dithiophosphoric acid | 526.5 g, 2.25 eq. | C(C)(C)OP(S)(OC(C)C)=S | C6H15O2PS2
reactant | zinc oxide | 146.5 g | [O-2].[Zn+2]
reactant | zinc | [Zn] | Zn
reactant | phosphorus | [P] | P
reactant | toluene | about 600 ml | C1(=CC=CC=C1)C | C7H8
product | Zinc Diisopropyl Dithiophosphate | P(=S)(SC(C)C)(OC(C)C)[O-].[Zn+2].C(C)(C)SP(=S)(OC(C)C)[O-] | InChI=1S/2C6H15O2PS2.Zn/c2*1-5(2)8-9(7,10)11-6(3)4;/h2*5-6H,1-4H3,(H,7,10);/q;;+2/p-2
